US04017621
To a suspension of sodium amide (0.5 g) in benzene was added a solution of 10,11-dihydro-5H-dibenz[b,f]azepine (1.0 g) in benzene at room temperature, and the resulting mixture was stirred under reflux for 1 hour. After cooling, a solution of 4-isopropyl-2-chloromethylmorpholine (1.0 g) in benzene was added to the reaction mixture at room temperature, and the resulting mixture was stirred at room temperature for 1 hour and refluxed for 20 hours with stirring. The reaction mixture was cooled and admixed with water. The benzene layer was separated, washed with water, dried over anhydrous magnesium sulfate and evaporated to afford 5-(4-isopropyl-2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine as an oily substance. M.P. 203.5° -- 204.5° C (oxalate).

reactant | sodium amide | 0.5 g | [NH2-].[Na+]
reactant | 10,11-dihydro-5H-dibenz[b,f]azepine | 1.0 g | C1=CC=CC=2NC3=C(CCC21)C=CC=C3 | C14H13N
reactant | 4-isopropyl-2-chloromethylmorpholine | 1.0 g | C(C)(C)N1CC(OCC1)CCl | C8H16ClNO
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-(4-isopropyl-2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine | C(C)(C)N1CC(OCC1)CN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C22H28N2O
